US08222248B2
To a solution of 2-(2,6-dichloro-phenyl)-benzooxazole-6-carboxylic acid (8.9 mg) in anhydrous DMF (0.5 mL) was added BOP (17.4 mg), diisopropylethylamine (0.014 mL), and 2-o-tolyl-ethylamine (5.5 mg). The reaction mixture was stirred at 85° C. overnight, quenched with 1N NaOH aqueous solution at 0° C., extracted with EtOAc. The extracts were dried over Na2SO4 and concentrated in vacuo. The crude reaction mixture was purified by silica SPE eluting with EtOAc/Hexane to give 2-(2,6-dichlorophenyl)-benzooxazole-6-carboxylic acid (2-o-tolyl-ethyl)-amide: MS (m/z) 425.1 (M+1).

reactant | 2-(2,6-dichloro-phenyl)-benzooxazole-6-carboxylic acid | 8.9 mg | ClC1=C(C(=CC=C1)Cl)C=1OC2=C(N1)C=CC(=C2)C(=O)O | C14H7Cl2NO3
reactant | BOP | 17.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 0.014 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-o-tolyl-ethylamine | 5.5 mg | C1(=C(C=CC=C1)CCN)C | C9H13N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-dichlorophenyl)-benzooxazole-6-carboxylic acid (2-o-tolyl-ethyl)-amide | C1(=C(C=CC=C1)CCNC(=O)C1=CC2=C(N=C(O2)C2=C(C=CC=C2Cl)Cl)C=C1)C | C23H18Cl2N2O2
